US04405530
E. 2-Fluoromethyl-2-phthalimido-5-methane-sulfonyloxy-valeronitrile
A mixture of 2-fluoromethyl-2-phthalimido-5-hydroxy-valeronitrile (42.8 g), dry pyridine (170 ml), and dry dichloromethane (350 ml) is stirred and cooled with ice/salt mixture. Freshly distilled methanesulfonylchloride (15.7 g) in dichloromethane (200 ml) is slowly added, and stirring is continued at room temperature overnight. The mixture is then poured onto ice/2 N HCl, and the organic phase is extracted subsequently with 1 N HCl, water, 10% sodium bicarbonate, and water (3×). Drying (MgSO4), treatment with charcoal (room temperature), and evaporation gives the title compound as a brown oil (42 g).

reactant | 2-fluoromethyl-2-phthalimido-5-hydroxy-valeronitrile | 42.8 g | FCC(C#N)(CCCO)N1C(C=2C(C1=O)=CC=CC2)=O | C14H13FN2O3
reactant | pyridine | 170 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonylchloride | 15.7 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 2-Fluoromethyl-2-phthalimido-5-methane-sulfonyloxy-valeronitrile | 42 g | FCC(C#N)(CCCOS(=O)(=O)C)N1C(C=2C(C1=O)=CC=CC2)=O | C15H15FN2O5S
